US08487106B2
In a reaction vessel, 4-(1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (1.5 g) prepared in the Example 10, toluene (10 mL) and potassium hydroxide (0.8 g) were introduced, and temperature of the mixture was controlled to 50° C. or more. To the mixture, ethoxyethanol methane sulfonate (1.3 g) was added, and then, it was stirred at the same temperature until the reaction was completed. After the reaction was completed, distilled water (10 mL) was added to separate layers, and then an organic layer was condensed to obtain 4-[1-(2-ethoxyethyl)-1H-benzoimidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (1.7 g, 91%).

reactant | 4-(1H-benzoimidazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(N1)C=CC=C2 | C17H23N3O2
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
reactant | ethoxyethanol methane sulfonate | 1.3 g | CS(=O)(=O)OC(C)OCC | C5H12O4S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(2-ethoxyethyl)-1H-benzoimidazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.7 g, 91% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C21H31N3O3
